* D:\TOPLANDIK\TI\buck_converter\Kullanılan makaleler\SON_LTSPCE -OYNANMIS Kopya\LTspice_AveragedSwitchModelingSimulation\SyncBuck_switching_CL.asc
* Generated by LTspice 26.0.1 for Windows.
Vg in 0 36
L1 sw N002 6.8µH ic=0A
RL out N002 15mOhm
Resr N003 out 0.28mOhm
C1 N003 0 40µF ic=0V
Iload out 0 1
Rload out 0 1.569
M1 in g1 sw sw BSC150N03LD
M2 sw g2 0 0 BSC150N03LD
X§U1 ctrl c PWM VM=4V, fs=332k Dmin=0.05, Dmax=0.9, Voffset=0V ;§pnba vc)c
X§U2 c c1 c2 dead_time Td=30ns ;§pnba c)c1)c2
X§U3 c1 bootstrap sw 0 N001 driver Imax=3A Tdelay=20ns, IQ=1mA, Vuvl=3V ;§pnba c)Vdd)Vss)Vssin)out
X§U4 c2 in 0 0 N004 driver Imax=3A Tdelay=20ns, IQ=1mA, Vuvl=3V ;§pnba c)Vdd)Vss)Vssin)out
Rg1 g1 N001 5
Rg2 g2 N004 5
Cb bootstrap sw 10µF
D1 in bootstrap 1N5817
X§U5 N009 N005 in 0 ctrl LT1215 ;§pnba In+)In-)V+)V-)OUT
C4 N008 N005 1000pF
C2 N005 N006 4.7nF
R2 N006 ctrl 6.65K
R4 N007 N008 768
R1 N007 N005 26.4k
Vref N009 0 PWL(0 0 1u 1.8V)
R5 out N007 87.2k
R3 N007 0 12.8k
C3 in 0 4.7µ V=6.3 Irms=0 Rser=0.3 Lser=0
C5 N005 ctrl 120pF
.model D D
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.mos
.lib switching.lib
.options reltol=0.0005
* tran 0 3000us 2ms 3n uic
* Gökberk Güçin
* Ron = 15 mOhm
* Ron = 15 mOhm
* PULSE(3.57 8.92 0.8m 1µ 1µ 0.5m 1m)
.tran 0 2000us 0 1n uic
* Library below included based on ModelFile attribute of instance X§U5 (C:\Users\user\AppData\Local\LTspice\lib\sym\OpAmps\LT1215.asy)
.lib LTC.lib
.backanno
.end
